US06927221B2
2-(6-Mesityl-4-mesityl-1H-pyrrolo[3,2-c][1,5]naphthyridin-1-yl)-butyl methyl ether
A solution of 4-chloro-3-(2-chloroethyl)-8-mesityl-2-methyl[1,5]naphthyridine (200 mg, 0.557 mmol) in 2-amino-1-methoxybutane (2.0 mL) was stirred at 200° C. for four hours in a sealed tube. After overnight, the residue was purified by silica gel column chromatography (30-50% ethylacetate/hexane) Activated manganese dioxide (290 mg, 3.24 mmol) was added to a solution of the resulting product (130 mg, 0.33 mmol) in toluene (20 mL) and the mixture was heated under reflux for one day. After filtering through Celite, the mixture was evaporated. The residue was purified by silica gel column chromatography-(10% ethyl acetate/hexane), to give the title compound (108 mg) as white crystals.

reactant | 4-chloro-3-(2-chloroethyl)-8-mesityl-2-methyl[1,5]naphthyridine | 0.557 mmol, 200 mg | ClC1=C(C(=NC2=C(C=CN=C12)C1=C(C=C(C=C1C)C)C)C)CCCl | C20H20Cl2N2
reactant | 2-amino-1-methoxybutane | 2.0 mL | NC(COC)CC | C5H13NO
solvent | ethylacetate hexane | C(C)OC(C)=O.CCCCCC
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | manganese dioxide | 3.24 mmol, 290 mg | [O-2].[O-2].[Mn+4]
product | 2-(6-Mesityl-4-mesityl-1H-pyrrolo[3,2-c][1,5]naphthyridin-1-yl)-butyl methyl ether | 108 mg | COCC(CC)N1C=CC=2C(=NC=3C(=CC=NC3C21)C2=C(C=C(C=C2C)C)C)C2=C(C=C(C=C2C)C)C | C33H37N3O
